US07553854B2
Step 1. Synthesis of 2-Mercapto-benzooxazol-6-ol
To a solution of 4-aminoresorcinol (1 eq) and ethylxanthic acid (3 eq) in ethanol was added potassium hydroxide (2.1 eq). The mixture was refluxed for two hours then diluted with water and acidified using 1N HCl to a pH of 4. The product was extracted into ethyl acetate then concentrated. The resulting solid was triturated with dichloromethane to give pure product with a 90% yield. MH+=168.1.

reactant | 4-aminoresorcinol | 1 eq | NC1=C(C=C(O)C=C1)O | C6H7NO2
reactant | ethylxanthic acid | 3 eq | C(C)OC(=S)S | C3H6OS2
reactant | potassium hydroxide | 2.1 eq | [OH-].[K+]
reactant | HCl | 1N | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-Mercapto-benzooxazol-6-ol | 90% yield | SC=1OC2=C(N1)C=CC(=C2)O | C7H5NO2S
